datasets/10k_Mayr_OG.csv
SMILES Labelled
"CCC[C:11]1([H:10])CC[CH:13]=[CH:12]1.C[C:21]1=[CH:20]CC[C:22]1=[O:23]>>CCC[C:11]1=[CH:12][CH+:13]CC1.C[C:21]1=[C:22]([O-:23])CC[CH:20]1[H:10] 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].[N:10]1=[C:11]([O-:12])[CH:64]=[CH:63][CH:62]=[CH:61]1>>CC[O:34][C:32]([C:21]([CH:20]([N:10]1[C:11](=[O:12])[CH:64]=[CH:63][CH:62]=[CH:61]1)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:62]/[C:11](=[C:10](\OC)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])[O-:12].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[O:62][C:11]([C:10](OC)([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:12] 10,11=10,20;12=11,12"
C1=CC=C([P:10](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1>>C1=CC=C([P+:10](C2=CC=CC=C2)(C2=CC=CC=C2)[C:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)C=C1 10=20
"C1=CC2=C(C=C1)[S:61](=[O:62])(=[O:72])[N:10]=[C:11]2[O-:12].CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1>>CC1=CC=C([S:32]([N-:21][CH:20]([N:10]2[C:11](=[O:12])C3=C(C=CC=C3)[S:61]2(=[O:62])=[O:72])[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"C/[N:10]=[C:11](/C(F)(F)F)[O-:12].CC1=CC(C)=C(C(C)C[CH+:20][C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1>>CC1=CC(C)=C(C(C)C[CH:20]([N:10](C)[C:11](C(F)(F)F)=[O:12])[C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1 10,11=10,20;12=11,12"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1.C[C:63]1=[C:62]([CH:11]=[CH2:10])[C:73](C)=[CH:74][C:65](C)=[CH:64]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][CH+:11][C:62]2=[C:63](C)[CH:64]=[C:65](C)[CH:74]=[C:73]2C)[C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1 10,11=10,20"
"CC(C)(C)[C:74]1=[CH:73][CH:72]=[C:71]([CH:11]([H:10])[CH2:62][Sn:63](C)(C)C)[CH:82]=[CH:83]1.[O-][N+:22]([C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)=[O:23]>>CC(C)(C)[C:74]1=[CH:73][CH:72]=[C:71]([CH+:11][CH2:62][Sn:63](C)(C)C)[CH:82]=[CH:83]1.[O-][N+:22](=[C:21]1[CH:20]([H:10])[C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C/[C:11](=[CH:10]/[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[O-:12].C1C[O:33][C:22](=[O:23])[CH:21]=[CH:20]1>>C[C:11]([CH:10]([CH:20]1CC[O:33][C:22]([O-:23])=[CH:21]1)[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34])C=C1.CCCC[Sn:63](CCCC)(CCCC)[CH2:62][C:11](C)=[CH2:10]>>CCCC[Sn:63](CCCC)(CCCC)[CH2:62][C+:11](C)[CH2:10][CH2:20][CH-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34] 10,11=10,20;20,21=21"
"COC1=CC=C(/[CH:42]=[CH:41]/[CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)C=C1.N#CC1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1>>COC1=CC=C(/[CH:42]=[CH:41]/[CH:20]([CH:10](Cl)[S:61](C2=CC=C(C#N)C=C2)(=[O:62])=[O:72])[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)C=C1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[CH+:20][C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C.C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[C:71]1=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]1>>C[CH:20]([H:10])[C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C.C[Si:63](C)(C)[CH2:62][CH+:11][C:71]1=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]1 10,11=10,20"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si:73](C)(C)[O:12][C:11]1=[CH:10]CCC[O:63]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]2CCC[O:63][C:11]2=[O+:12][Si:73](C)(C)C)([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1C[NH:10][CH:61]([C:62]([F:63])([F:73])[F:83])C1.CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)[N:23]([CH:22]=[CH:21][CH:20]([NH+:10]2CCC[CH:61]2[C:62]([F:63])([F:73])[F:83])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10=20;20,21=21,22;22,23=23"
